US07071175B1
A solution of KOH (0.71 g, 12.6 mmol, 85%) in ethanol (10 ml) was added to a solution of 2-(6-tert-butoxycarbonylamino-5-vinyl-pyridin-3-ylmethyl)-malonic acid diethyl ester (4.30 g, 11.0 mmol) in ethanol (25 ml) and dichloromethane (10 ml) at 0° C. The mixture was stirred for 6 h at room temperature. The solvent was evaporated in vacuo and the residue dissolved in water. The aqueous layer was washed with ether, acidified to pH 4 by 1 M HCl and extracted with dichloromethane. The organic layer was washed with water and brine and dried. Filtration and concentration under reduced pressure followed by flash chromatography (10% MeOH in CH2Cl2) gave 2-(6tert-butoxycarbonylamino5-vinyl-pyridin-3-ylmethyl)-malonic acid monoethyl ester (3.05 g, 76%).

reactant | KOH | 12.6 mmol, 0.71 g | [OH-].[K+]
reactant | 2-(6-tert-butoxycarbonylamino-5-vinyl-pyridin-3-ylmethyl)-malonic acid diethyl ester | 11.0 mmol, 4.30 g | C(C)OC(C(C(=O)OCC)CC=1C=NC(=C(C1)C=C)NC(=O)OC(C)(C)C)=O | C20H28N2O6
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(6tert-butoxycarbonylamino5-vinyl-pyridin-3-ylmethyl)-malonic acid monoethyl ester | 3.05 g, 76% | C(C)OC(C(C(=O)O)CC=1C=NC(=C(C1)C=C)NC(=O)OC(C)(C)C)=O | C18H24N2O6
